US05648536
5-[N-(2-Acetoxyethyl)acetoxyacetamido]-N,N'bis(2,3-diacetoxypropy)-2,4,6-triiodoisophthalamide solids are slurried in hot water containing a catalytic quantity of sulfuric acid. The solid gradually dissolves as it is heated with the steam on the jacket. The material is hydrolyzed to produce crude ioversol and acetic acid as a by-product. To remove the acetic acid, clean steam is sparged into the reactor. The solution volume is maintained constant by adding deionized water during the reaction and acetic acid removal. The reaction is tested for completeness of hydrolysis and for the removal of acetic acid.

reactant | 5-[N-(2-Acetoxyethyl)acetoxyacetamido]-N,N'bis(2,3-diacetoxypropy)-2,4,6-triiodoisophthalamide | C(C)(=O)OCCCC(=O)ON(C(C)=O)C=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)C(=O)NCC(COC(C)=O)OC(C)=O)I | C30H36I3N3O15
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
product | ioversol | C(CO)N(C=1C(=C(C(=C(C1I)C(=O)NCC(CO)O)I)C(=O)NCC(CO)O)I)C(=O)CO | C18H24I3N3O9
